US07759379B2
5,5-Dimethyl-3-(3-nitro-4-isopropylphenyl)-1-pyridin-4-ylmethyl-imidazolidine-2,4-dione
6.04 g (30 mmol) diphosgene in 50 ml 1,2-dichlorethane were treated at −20° C. with a solution of 2 g (11.1 mmol) 3-nitro-4-isopropyl-aniline in 20 ml 1,2-dichlorethane. The mixture was allowed to come to room temperature and then was heated to 50° C. for 5 h. After standing over night, the solvent was evaporated and the residual oil was taken up in 40 ml THF. 3.93 g (18.7 mmol) 2-methyl-2-[(pyridin-4-ylmethyl)-amino]-propionic acid methyl ester in 30 ml THF were added and the mixture was refluxed for 6 h. The solvent was evaporated and the residue taken up in ethylacetate and washed with water. THe organic phase was dried, the solvent evaporated and the residue was purified by preparative HPLC. (C18 reversed phase column, elution with a water (0.1% trifluoracetic acid)/acetonitrile gradient) Yield: 2.7 g.

reactant | diphosgene | 30 mmol, 6.04 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 3-nitro-4-isopropyl-aniline | 11.1 mmol, 2 g | [N+](=O)([O-])C=1C=C(N)C=CC1C(C)C | C9H12N2O2
reactant | 2-methyl-2-[(pyridin-4-ylmethyl)-amino]-propionic acid methyl ester | 18.7 mmol, 3.93 g | COC(C(C)(NCC1=CC=NC=C1)C)=O | C11H16N2O2
solvent | 1,2-dichlorethane | 50 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichlorethane | 20 ml | ClCCCl | C2H4Cl2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 5,5-Dimethyl-3-(3-nitro-4-isopropylphenyl)-1-pyridin-4-ylmethyl-imidazolidine-2,4-dione | CC1(C(N(C(N1CC1=CC=NC=C1)=O)C1=CC(=C(C=C1)C(C)C)[N+](=O)[O-])=O)C | C20H22N4O4
